US05883255
3A. (±)-8-Methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]-acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one
To a suspension of N-[(1,1-dimethylethoxy)carbonyl]glycine (1.15 g, 6.6 mmol) in CH2Cl2 (50 mL) under an argon atmosphere was added 1,3-dicyclohexylcarbodiimide (1.35 g, 6.5 mmol). After stirring at room temperature for 0.5 h, (±)-7-(1-hydroxypropyl)-8-methylindolizino[1,2-b]quinolin-9(11H)-one (1.0 g, 3.3 mmol) was added followed by a few mg of 4-dimethylaminopyridine. The resulting mixture was allowed to stir at room temperature overnight and then was filtered. The filtrate was washed successively with 2.5% aqueous NaHCO3 (100 mL), 0.1N HCl (100 mL) and H2O (100 mL), dried over sodium sulfate and concentrated in vacuo. The solid residue was purified by column chromatography on silica gel eluting with a solvent gradient of 0-2% MeOH/CH2Cl2 to provide the title compound. 1H NMR (CDCl3) d 8.34 (s, 1H), 8.21 (d, J=8.8 Hz, 1H), 7.91, (d, J=8.3 Hz, 1H), 7.81, (m, 1H), 7.63, (m 1H), 7.32 (s, 1H), 5.96 (apparent br t, J=7.0 Hz, 1H), 5.25 (s, 2H), 5.03 (br s, 1H), 4.15-3.94 (m, 2H), 2.36 (s, 3H), 2.04-184 (m, 2H), 1.44 (s, 9H), 0.99 (t, J=7.4 Hz, 3H). Anal. Calcd for C26H29N3O5.1/8 H2O: C, 67.04; H, 6.33; N, 9.02. Found: C, 66.95; H, 6.54; N, 8.83.

reactant | N-[(1,1-dimethylethoxy)carbonyl]glycine | 6.6 mmol, 1.15 g | CC(C)(OC(=O)NCC(=O)O)C | C7H13NO4
reactant | 1,3-dicyclohexylcarbodiimide | 6.5 mmol, 1.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (±)-7-(1-hydroxypropyl)-8-methylindolizino[1,2-b]quinolin-9(11H)-one | 3.3 mmol, 1.0 g | OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C19H18N2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (±)-8-Methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]-acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one | CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)OC(CNC(=O)OC(C)(C)C)=O)=O | C26H29N3O5
